US04292249
(i) Synthesis of 24-ethylenedioxycholesterol;
27 g of 24-oxocholesterol was dissolved in 717 ml of anhydrous benzene. To the solution were added 179 ml of ethylene glycol and 358 mg of p-toluen sulfonic acid. The mixture was stirred and heated at a bath temperature of 105° C. for 20 hours in a flask equipped with receiver capable of mesuring water in which was added a molecular sieve. Water was added to separate the reaction mixture into layers. The aqueous layer was extracted with benzene.

reactant | 24-oxocholesterol | 27 g | O=C(C(C)C)CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H44O2
reactant | ethylene glycol | 179 ml | C(CO)O | C2H6O2
reactant | p-toluen sulfonic acid | 358 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 717 ml | C1=CC=CC=C1 | C6H6
product | 24-ethylenedioxycholesterol | C1OC(C(C)C)C(C[C@@H](C)[C@H]2CC[C@H]3[C@@H]4CC=C5C[C@@H](O)CC[C@]5(C)[C@H]4CC[C@]23C)OC1 | C29H48O3
